US07042755B1
1-Iodo-4-(S-acetylthiomethyl)benzene (5)
Following a general procedure (Zheng et al. (1999) Tetrahedron Lett. 40: 603–606), potassium thioacetate (2.20 g, 19.3 mmol) was added to a solution of 4-(bromomethyl)-1-iodobenzene (4.80 g, 16.2 mmol) in anhydrous N,N-dimethylacetamide (15 mL). The mixture was stirred overnight at rt, poured into water, and extracted with CH2Cl2. The combined organic extracts were washed with water, dried (Na2SO4) and evaporated. The resulting brown oil was distilled (90° C., 0.005 mmHg) to obtain a pale-yellow solid which solidified after a few days (4.68 g, 99%). mp 40–41° C.; 1H NMR δ 2.37 (s, 3H), 4.07 (s, 2H), 7.07, 7.64 (AA′BB′, 2×2H); 13C NMR δ 31.09, 33.6, 93.5, 131.6, 138.2, 138.4, 195.5; FAB-MS obsd 291.9425, calcd exact mass 291.9419; Anal. Calcd. for C9H9IOS: C, 37.00; H, 3.11; I, 43.44; S, 10.98; Found: C, 37.39; H, 3.13; 1,43.04; S, 11.26.

reactant | potassium thioacetate | 19.3 mmol, 2.20 g | C(C)(=S)[O-].[K+]
reactant | 4-(bromomethyl)-1-iodobenzene | 16.2 mmol, 4.80 g | BrCC1=CC=C(C=C1)I | C7H6BrI
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 1-Iodo-4-(S-acetylthiomethyl)benzene | IC1=CC=C(C=C1)CSC(C)=O | C9H9IOS
